2125-05-18 05:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2125-5-17**] 08:00 PM
   EKG obtained but unable to get satisfactory tracing due to pt's
   agitation and movement
   - social work consulted?
   - as we attempted to correct his hyponatremia and treat his rhabdo, the
   patient was put on several different IVF's - currently the patient is
   on NS at 200 mL/hr
   - pt needed large amounts of valium for agitation/hallucinations -
   changed to ativan per psych recs - pt was also shaky and diaphoretic
   - [**2030**] - BP in 190's - gave hydralazine 20 mg Iv x 1
   - 2300 - BP 165 - gave hydralazine 10 mg IV x 1
   - have been repleting calcium throughout the afternoon/evening
   - patient developed some slight horizontal nystagmus on exam
   - repleted potassium - 10meq in 100mL x 2
   - 0115 - BP 160 - gave hydralazine 10 mg IV x 1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2125-5-17**] 03:00 PM
   Lorazepam (Ativan) - [**2125-5-17**] 04:50 PM
   Hydralazine - [**2125-5-18**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-18**] 05:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 86 (57 - 102) bpm
   BP: 146/98(110) {113/57(85) - 196/116(123)} mmHg
   RR: 10 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  3,438 mL
                                                                  1,371 mL
   PO:
             TF:
   IVF:
                                                                  3,438 mL
                                                                  1,371 mL
   Blood products:
   Total out:
                                                                  2,155 mL
                                                                    780 mL
   Urine:
                                                                  1,805 mL
                                                                    780 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,283 mL
                                                                    591 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   9.4 g/dL
   99 mg/dL
   5.7 mg/dL
   22 mEq/L
   3.8 mEq/L
   70 mg/dL
   82 mEq/L
   117 mEq/L
   25.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2125-5-17**]  08:20 AM
                             [**2125-5-17**]  11:41 AM
                             [**2125-5-17**]  04:02 PM
                             [**2125-5-17**]  06:23 PM
                             [**2125-5-17**]  08:36 PM
                             [**2125-5-17**]  10:29 PM
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
   WBC
   13.6
   14.0
   11.3
   Hct
   25.9
   26.1
   25.6
   Plt
   190
   165
   174
   Cr
   6.2
   5.9
   6.0
   6.0
   6.0
   5.9
   5.7
   Glucose
   122
   131
   132
   95
   92
   97
   99
   Other labs: PT / PTT / INR:12.4/25.6/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7302**]//, Lactic Acid:4.2 mmol/L, Ca++:9.1 mg/dL, Mg++:2.4
   mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
   This is a 49 yo M with a history of bipolar disorder on multiple
   psychiatric medications who presents with confusion, profound
   hyponatremia, renal failure and rhabdomyolysis.
   #  Altered Mental Status - osm gap is 15, which is high. Has many
   reasons to be altered, including hyponatremia, uremia, drug or toxin
   ingestion. Renal feels that he likely dropped his sodium quickly.
   Ingestion is also high on the differential, given his osm gap. TTP is
   less likely given normal platelets here.
   - monitor closely
   - neuro checks q2h
   .
   #  Acute Renal Failure - likely ATN secondary to rhabdomyolysis with
   critically high CK and evidence of myoglobinuria. FeUrea is 62%.
   Abnormal ALT/AST likely muscle source. Unclear underlying etiology of
   his rhabdo - differential includes alcohol, drugs and toxins infections
   (including HIV), electrolyte abnormalities (unclear what was
   precipitant), endocrinopathies and inflammatory myopathy. NMS is also
   on the differential, but patient's tone and temperature were normal. No
   obvious signs of infection. Osm gap raises suspicion for ingestion,
   initial basic tox screens were only positive for benzos. A seizure is
   possible, as he lives alone. Diffuse ecchymoses could be indication for
   injury but history is vague. My suspicion is that the patient suffered
   traumatic attack given the extent of his injuries. It's unclear if he
   does not recall or if he does not feel safe to talk to us about it at
   this time.
   - renal c/s now
   - NS @ 75cc/hr continuous initially, transitioned to isotonic bicarb
   200cc/hr x 2L
   - monitor electrolytes Q2h for the next 6 hours- monitor carefully for
   worsening hyponatremia, hypocalcemia, acidosis, hyperkalemia from
   cellular injury.
   - 2g calcium IV now, check ionized calcium
   - social work c/s
   - psychiatry c/s
   - zofran prn for nausea
   - renal to look at sediment - appreciate recs
   - monitor for compartment syndrome with q4h distal pulses
   .
   # Hyponatremia - unclear etiology. ?psychiatric medications misuse or
   overdose, psychogenic polydipsia in the setting of ATN. Renal feels
   most likely the latter. Patient seems to think that this has happened
   to him in the past and it was med related, however denies any recent
   changes in medications or doses.
   - per renal not likely to drop sodium with isotonic bicarb but may
   shoot up too quickly, monitor very carefuly
   - Q2h neuro checks
   - Q2h electrolyte checks
   .
   # Anemia
 recheck hct in afternoon. T&S. Need blood consent.
   .
   # Bipolar D/o - holding all psych meds, await input from psych c/s. Do
   not want to exacerbate hyponatremia right now if possible. Ativan prn
   as needed for agitation (QTc prolonged would avoid haldol for now).
   .
   # Pneumothorax - right sided apical. Surgery evaluated. Will repeat CXR
   in afternoon to reevaluate. Patient stable from a respiratory
   standpoint.
   .
   # HTN - holding atenolol for HR in 50's, holding HCTZ for hyponatremia.
   Use hydralazine as needed for SBP>160.
   .
   # FEN: IVF as above, replete electrolytes aggressively with hypoNa mgmt
   as above, regular diet with free water restriction.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Presumed Full
   Disposition:ICU

2125-05-18 10:29:00 Physician Attending Progress Note
Chief Complaint: ARF, rhabdo, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2125-5-17**] 08:00 PM
   EKG obtained but unable to get satisfactory tracing due to pt's
   agitation and movement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2125-5-17**] 03:00 PM
   Lorazepam (Ativan) - [**2125-5-17**] 04:50 PM
   Hydralazine - [**2125-5-18**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2125-5-18**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 63 (57 - 102) bpm
   BP: 108/53(66) {108/53(66) - 196/116(123)} mmHg
   RR: 16 (10 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  3,438 mL
                                                                  2,279 mL
   PO:
             TF:
   IVF:
                                                                  3,438 mL
                                                                  2,279 mL
   Blood products:
   Total out:
                                                                  2,155 mL
                                                                  1,410 mL
   Urine:
                                                                  1,805 mL
                                                                  1,410 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,283 mL
                                                                    869 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///20/
   Physical Examination
    Gen:sitting in bed, alert, conversant, answering ? appropriately
   HEENT: o/p dry
   CV: RR nl s1/s2 + soft rub
   Chest: CTA bilat
 post right ecchymoses and ant left ecchymosis, no
   crepitus or falial chest
   Abd soft +BS
   Ext: large ecchymosis over both knees
   Neuro: A and O x 3
   Labs / Radiology
   9.4 g/dL
   174 K/uL
   98 mg/dL
   5.5 mg/dL
   20 mEq/L
   3.8 mEq/L
   70 mg/dL
   84 mEq/L
   123 mEq/L
   25.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2125-5-17**]  08:20 AM
                             [**2125-5-17**]  11:41 AM
                             [**2125-5-17**]  04:02 PM
                             [**2125-5-17**]  06:23 PM
                             [**2125-5-17**]  08:36 PM
                             [**2125-5-17**]  10:29 PM
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
   WBC
   13.6
   14.0
   11.3
   Hct
   25.9
   26.1
   25.6
   Plt
   190
   165
   174
   Cr
   6.2
   5.9
   6.0
   6.0
   6.0
   5.9
   5.7
   5.5
   TropT
   0.03
   Glucose
   122
   131
   132
   95
   92
   97
   99
   98
   Other labs: PT / PTT / INR:12.4/25.6/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7310**]/249/0.03, ALT / AST:[**Telephone/Fax (1) 7311**], Alk Phos / T
   Bili:49/1.5, Lactic Acid:4.2 mmol/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:5.9 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
   Very odd story of this 49 male with bipolar who presents after fall
   with rhabdo, dense renal failure, hypoNa, and altered mental status
   1.       HypoNatremia: DDX is med related with lamotrigine, HCTZ,
   versus ingestion, versus psychogenic polydipsia. Appreciate all renal
   reccs- we are now giving
 NS at 150cc/hr checking Na q4- has been
   123-125 range
   2.        Altered Mental Status: likely delirium with possible
   component of hypoNa,
   3.         Rhabdo: very high CK with active ARF- now resuscitating with
   4.         ARF: secondary to rhabdo but making urine now, renally dose
   all meds, avoid nephrotoxins,
   5.          Right PTX: serial CXR, trauma team to follow reoeat CXR
   this evening.
   6.        Altered Mental Status: unknown baseline, but hypoNa leds the
   list, need more baseline info, correcting Na with isotonic bicarb but
   have to carefully monitor lytes and q2 neuro checks. Likely repeat head
   CT here if can
t get OSH films  - but wre neg at that time. [**Month (only) 8**] need to
   reimage as needed.
   ICU Care
   Nutrition: po diet if able, free water restrict
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: po diet
   Communication:  spoke w Mother yesterday
   [**Name2 (NI) 156**] status: Full code
   Disposition : ICU until we can get behavior under control
   Total time spent: 35

2125-05-19 03:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - reached pt's psychiatrist [**First Name8 (NamePattern2) 137**] [**Last Name (NamePattern1) 7328**] ([**Hospital **] Health [**Name2 (NI) 151**] [**Telephone/Fax (1) 7329**],
   extension [**Numeric Identifier 7330**]). Not able to provide much information other than pt
   comes in with EtOH on his breath often.
   - 1830 hrs: per renal, switched pt from 1/2NS to NS and added lasix x 1
   dose (given Na 121)
   - sent RPR, B12, folate (normal), TSH (wnl), AM cortisol
   - f/u cxr in AM to ensure resolution of ptx
   - check ekg in AM to ensure non-prolonged QTc
   - social work consult in computer
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2125-5-18**] 06:00 PM
   FoLIC Acid
   Furosemide
   Insulin
   Lorazepam
   Metoprolol Tartrate
   Multivitamins
   Nicotine Patch
   Ondansetron
   Thiamine
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-19**] 03:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 94 (63 - 103) bpm
   BP: 155/74(95) {97/53(66) - 168/99(111)} mmHg
   RR: 17 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  5,429 mL
                                                                    728 mL
   PO:
                                                                  1,020 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  4,409 mL
                                                                    548 mL
   Blood products:
   Total out:
                                                                  3,290 mL
                                                                    670 mL
   Urine:
                                                                  3,290 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,139 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   9.4 g/dL
   119 mg/dL
   4.7 mg/dL
   23 mEq/L
   3.1 mEq/L
   73 mg/dL
   90 mEq/L
   126 mEq/L
   25.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2125-5-17**]  04:02 PM
                             [**2125-5-17**]  06:23 PM
                             [**2125-5-17**]  08:36 PM
                             [**2125-5-17**]  10:29 PM
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
                             [**2125-5-18**]  11:55 AM
                             [**2125-5-18**]  03:48 PM
                             [**2125-5-18**]  08:04 PM
                             [**2125-5-19**]  02:05 AM
   WBC
   13.6
   14.0
   11.3
   Hct
   25.9
   26.1
   25.6
   Plt
   190
   165
   174
   Cr
   6.0
   6.0
   6.0
   5.9
   5.7
   5.5
   5.4
   5.2
   5.1
   4.7
   TropT
   0.03
   Glucose
   132
   95
   92
   97
   99
   98
   95
   134
   126
   119
   Other labs: PT / PTT / INR:12.4/25.6/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7331**]/249/0.03, ALT / AST:[**Telephone/Fax (1) 7311**], Alk Phos / T
   Bili:49/1.5, Lactic Acid:4.2 mmol/L, LDH:3140 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan: This is a 49 yo M with a history of bipolar
   disorder on multiple psychiatric medications who presents with
   confusion, profound hyponatremia, renal failure and rhabdomyolysis.
   #  Altered Mental Status - osm gap is 15, which is high. Has many
   reasons to be altered, including hyponatremia, uremia, drug or toxin
   ingestion. Renal feels that he likely dropped his sodium quickly.
   Ingestion is also high on the differential, given his osm gap.
   - monitor closely
   - neuro checks q2h
   .
   #  Acute Renal Failure - likely ATN secondary to rhabdomyolysis with
   critically high CK and evidence of myoglobinuria. FeUrea is 62%.
   Abnormal ALT/AST likely muscle source. Unclear underlying etiology of
   his rhabdo - differential includes alcohol, drugs and toxins infections
   (including HIV), electrolyte abnormalities (unclear what was
   precipitant), endocrinopathies and inflammatory myopathy. NMS is also
   on the differential, but patient's tone and temperature were normal. No
   obvious signs of infection. Osm gap raises suspicion for ingestion,
   initial basic tox screens were only positive for benzos. A seizure is
   possible, as he lives alone. Diffuse ecchymoses could be indication for
   injury but history is vague. My suspicion is that the patient suffered
   traumatic attack given the extent of his injuries. It's unclear if he
   does not recall or if he does not feel safe to talk to us about it at
   this time.
   - renal c/s now
   - NS @ 75cc/hr continuous initially, transitioned to isotonic bicarb
   200cc/hr x 2L
   - monitor electrolytes Q2h for the next 6 hours- monitor carefully for
   worsening hyponatremia, hypocalcemia acidosis, hyperkalemia from
   cellular injury.
   - 2g calcium IV now, check ionized calcium
   - social work c/s
   - psychiatry c/s
   - zofran prn for nausea
   - renal to look at sediment - appreciate recs
   .
   # Hyponatremia - unclear etiology. ?psychiatric medications misuse or
   overdose, psychogenic polydipsia in the setting of ATN. Renal feels
   most likely the latter. Patient seems to think that this has happened
   to him in the past and it was med related, however denies any recent
   changes in medications or doses.
   - per renal not likely to drop sodium with isotonic bicarb but may
   shoot up too quickly, monitor very carefuly
   - Q2h neuro checks
   - Q2h electrolyte checks
   .
   # Bipolar D/o - holding all psych meds, await input from psych c/s. Do
   not want to exacerbate hyponatremia right now if possible. Ativan prn
   as needed for agitation (QTc prolonged would avoid haldol for now).
   -EKG to follow QTc
   -EEG per psych recs.
   .
   # Pneumothorax - right sided apical. Surgery evaluated. CXR repeated
   this AM, however patient supine making it difficult to evaluate small
   pneumothorax.
   # HTN - holding atenolol for HR in 50's, holding HCTZ for hyponatremia.
   Use hydralazine as needed for SBP>160.
   .
   # FEN: IVF as above, replete electrolytes aggressively with hypoNa mgmt
   as above, regular diet with free water restriction.
   .
   # Prophylaxis: boots
   .
   # Access: peripherals x 3
   .
   # Code: presumed full
   .
   # Communication: Patient and parents - message left for them
   .
   # Disposition: pending above
   ICU Care
   Nutrition: Regular diet with free water restriction
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-05-20 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2125-5-19**] 09:02 AM
   [**5-19**]
   -Spoke with Mrs. [**Name (NI) 985**] (Pts Mother) and updated her on his status.
   -Per Renal redose lasix 40mg IV if Uosm rise or serum Na falls.
   Continue forced diuresis with NS or equivalent.
   -Per Psych may treat aggitation with 2-5mg Haldol IV/PO and follow QTc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-20**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 60 (59 - 117) bpm
   BP: 134/71(88) {130/70(84) - 176/85(105)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  5,440 mL
                                                                  1,154 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                  4,360 mL
                                                                  1,154 mL
   Blood products:
   Total out:
                                                                  3,020 mL
                                                                    850 mL
   Urine:
                                                                  3,020 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,420 mL
                                                                    304 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   8.4 g/dL
   96 mg/dL
   3.5 mg/dL
   23 mEq/L
   3.1 mEq/L
   61 mg/dL
   101 mEq/L
   133 mEq/L
   23.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
                             [**2125-5-18**]  11:55 AM
                             [**2125-5-18**]  03:48 PM
                             [**2125-5-18**]  08:04 PM
                             [**2125-5-19**]  02:05 AM
                             [**2125-5-19**]  05:57 AM
                             [**2125-5-19**]  11:55 AM
                             [**2125-5-19**]  05:40 PM
                             [**2125-5-20**]  04:17 AM
   WBC
   11.3
   12.3
   10.0
   Hct
   25.6
   26.2
   23.5
   Plt
   174
   219
   230
   Cr
   5.7
   5.5
   5.4
   5.2
   5.1
   4.7
   4.6
   4.4
   3.9
   3.5
   TropT
   0.03
   Glucose
   99
   98
   95
   134
   126
   119
   124
   119
   107
   96
   Other labs: PT / PTT / INR:11.8/24.8/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7357**]/249/0.03, ALT / AST:317/625, Alk Phos / T Bili:41/0.7,
   Lactic Acid:4.2 mmol/L, LDH:1208 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.2 mg/dL
   Cdiff
 negative
   RPR, stool cx, stool campylobacter PENDING
   Assessment and Plan
   Assessment and Plan: This is a 49 y/o M with a history of bipolar
   disorder on multiple psychiatric medications who presents with
   confusion, profound hyponatremia, renal failure and rhabdomyolysis.
   #  Altered Mental Status - osm gap is 15, which is high. Has many
   reasons to be altered, including hyponatremia, uremia, drug or toxin
   ingestion. Renal feels that he likely dropped his sodium quickly.
   Ingestion is also high on the differential, given his osm gap.
   - monitor closely
   -Try redirection for delirium.
   .
   #  Acute Renal Failure - likely ATN secondary to rhabdomyolysis with
   critically high CK and evidence of myoglobinuria. FeUrea is 62%.
   Abnormal ALT/AST likely muscle source. Unclear underlying etiology of
   his rhabdo - differential includes alcohol, drugs and toxins infections
   (including HIV), electrolyte abnormalities (unclear what was
   precipitant), endocrinopathies and inflammatory myopathy. NMS is also
   on the differential, but patient's tone and temperature were normal. No
   obvious signs of infection. Osm gap raises suspicion for ingestion,
   initial basic tox screens were only positive for benzos. A seizure is
   possible, as he lives alone. Diffuse ecchymoses could be indication for
   injury but history is vague. My suspicion is that the patient suffered
   traumatic attack given the extent of his injuries. It's unclear if he
   does not recall or if he does not feel safe to talk to us about it at
   this time.
   - renal c/s now
   - monitor electrolytes
   - social work c/s awaiting recs.
   - zofran prn for nausea
   - renal to look at sediment - appreciate recs
   .
   # Hyponatremia - unclear etiology. ?psychiatric medications misuse or
   overdose, psychogenic polydipsia in the setting of ATN. Renal feels
   most likely the latter. Patient seems to think that this has happened
   to him in the past and it was med related, however denies any recent
   changes in medications or doses.
   - per renal switched to NS.
   -Continue to follow lytes 1200/1800hrs.
   .
   # Bipolar D/o - holding all psych meds, await recs from psych c/s. Do
   not want to exacerbate hyponatremia right now if possible. Will try
   redirection and distraction for agitation but may use Haldol 2mg IV PRN
   and follow EKG to eval QTc (currently 463).  [**Month (only) 8**] also use Ativan
   however this made patient more delirious in past.
   -EKG to follow QTc
   .
   # Pneumothorax - right sided apical. Surgery evaluated. CXR repeated
   this AM, however patient supine making it difficult to evaluate small
   pneumothorax.  Once patient able to participate for PA/Lat will
   re-image.
   # HTN - holding atenolol for HR in 50's, holding HCTZ for hyponatremia.
   Use hydralazine as needed for SBP>160.
   .
   # FEN: IVF as above, replete electrolytes aggressively with hypoNa mgmt
   as above, regular diet with free water restriction
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Possibly transfer to floor today